US07687491B2
(22b) 4-Ethyl-5-[(tetrahydro-2H-pyran-2-yloxy)methyl]thiophene-2-carboxaldehyde
To a solution of [5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-ethyl-2-thienyl]methanol (1.4 g, 5.3 mmol) that was obtained in Example 22 (22a) in dichloromethane (10 ml) were added successively 3,4-dihydro-2H-pyran (0.58 ml, 6.4 mmol) and p-toluenesulfonic acid (10 mg, 0.04 mmol) at 0° C. with stirring, and the resulting mixture was stirred at room temperature for 30 minutes. After stirring, a saturated aqueous solution of sodium hydrogencarbonate (5 ml) was added to the reaction mixture to quench the reaction, and the resulting mixture was poured into water (20 ml) and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo. Subsequently, to a solution of the residue obtained in tetrahydrofuran (5 ml) was added a 1.0 M solution of tetrabutylammonium fluoride in tetrahydrofuran (6.4 ml, 6.4 mmol) with stirring, and the resulting mixture was stirred at room temperature for 30 minutes. After stirring, the reaction mixture was poured into water (20 ml) and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo. Subsequently, to a solution of the residue obtained in dichloromethane (30 ml) was added molecular sieves 4A (10g), and after cooling to 0° C., pyridinium dichromate (3.3 g, 8.7 mmol) was furthermore added to the resulting mixture with stirring, and the resulting mixture was stirred at room temperature for 2 hours. After stirring, ether (150 ml) was added to the reaction mixture with stirring, and insoluble materials were removed by filtration with silica gel. The filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (0:10 to 2:8) as the eluent to afford the title compound (0.97 g) in a yield of 78% as a colourless oily product.

reactant | [5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-ethyl-2-thienyl]methanol | 5.3 mmol, 1.4 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(S1)CO)CC | C14H26O2SSi
reactant | 3,4-dihydro-2H-pyran | 6.4 mmol, 0.58 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | 0.04 mmol, 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogencarbonate | 5 ml | C(O)([O-])=O.[Na+]
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 6.4 mmol, 6.4 ml | O1CCCC1 | C4H8O
reactant | pyridinium dichromate | 8.7 mmol, 3.3 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | water | 20 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 4-Ethyl-5-[(tetrahydro-2H-pyran-2-yloxy)methyl]thiophene-2-carboxaldehyde | yield of 78% | C(C)C=1C=C(SC1COC1OCCCC1)C=O | C13H18O3S
